US04740228
11 g of 2-cyano-2-ethyl-2-phenylacetyl bromide are added dropwise under cooling, at 20° to 30° C., to a solution of 3 g of n-propylamine and 4 g of pyridine in 20 ml of dry benzene. The reaction mixture is refluxed for 30 minutes and then processed as described in Example 3. 7.9 g (68.3%) of N-(n-propyl)-2-cyano-2-ethyl-2-phenylacetic acid amide are obtained; m.p.: 55°-56° C.

reactant | 2-cyano-2-ethyl-2-phenylacetyl bromide | 11 g | C(#N)C(C(=O)Br)(C1=CC=CC=C1)CC | C11H10BrNO
reactant | n-propylamine | 3 g | C(CC)N | C3H9N
reactant | pyridine | 4 g | N1=CC=CC=C1 | C5H5N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-(n-propyl)-2-cyano-2-ethyl-2-phenylacetic acid amide | 7.9 g, 68.3% | C(CC)NC(C(C1=CC=CC=C1)(CC)C#N)=O | C14H18N2O
